US09339503B2
2-[4-(3-Fluorophenyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one (“A5”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol) and 1-(3-fluorophenyl)piperazine (82.6 μl; 0.51 mmol) are reacted in isoamyl alcohol (1 ml) in accordance with the procedure for Example 1 and worked up; yield: 54 mg (32%), crystals;

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | 1-(3-fluorophenyl)piperazine | 0.51 mmol, 82.6 μl | FC=1C=C(C=CC1)N1CCNCC1 | C10H13FN2
solvent | isoamyl alcohol | 1 ml | C(CC(C)C)O | C5H12O
product | 2-[4-(3-Fluorophenyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | FC=1C=C(C=CC1)N1CCN(CC1)C1=NC=2CCCCC2C(N1)=O | C18H21FN4O
